US07906517B2
6-{[2-({(3,5-Bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoic acid (105 mg) is dissolved in ethanol (1 ml), and thereto is added a 2M-aqueous sodium hydroxide solution (74 μl), and the mixture is stirred at room temperature for 5 minutes. The reaction solution is concentrated under reduced pressure to give 6-{[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoic acid sodium salt (102 mg). MS (m/z): 709 [M−Na]−

reactant | 6-{[2-({(3,5-Bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoic acid | 105 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCOC)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCC(=O)O)CC)C=C(C1)C(F)(F)F)(F)F | C32H35F9N4O4
reactant | sodium hydroxide | 74 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-{[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoic acid sodium salt | 102 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)OCCOC)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCC(=O)[O-])CC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H35F9N4O4.Na/c1-3-44(10-6-4-5-7-28(46)47)27-9-8-23(30(33,34)35)15-22(27)20-45(29-42-17-26(18-43-29)49-12-11-48-2)19-21-13-24(31(36,37)38)16-25(14-21)32(39,40)41;/h8-9,13-18H,3-7,10-12,19-20H2,1-2H3,(H,46,47);/q;+1/p-1
